reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C@@:2]([O:3][H:16])([C:4]([C:5]([H:13])([H:14])[H:15])=[O:6])[H:10])([H:7])([H:8])[H:9].[H:11][H:12]>>[C:1]([C@@:2]([O:3][H:11])([C@@:4]([C:5]([H:13])([H:14])[H:15])([O:6][H:16])[H:12])[H:10])([H:7])([H:8])[H:9],57.212992273367206
[C:1]([C@@:2]([O:3][H:11])(/[C:4](=[N:5]/[H:14])[H:12])[C:6]#[N:7])([H:8])([H:9])[H:10].[H:13][H:15]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([N:5]([H:14])[H:15])([H:12])[H:13])[C:6]#[N:7])([H:8])([H:9])[H:10],77.1917171542412
[C:1]([C:2](=[O:3])[C:4]([C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]=[O:3])([H:7])[H:9].[C:4]([C:5]([O:6][H:14])([H:12])[H:13])([H:8])([H:10])[H:11],87.14877048279759
[C:1](=[C:2]([H:7])[H:8])([H:4])[H:5].[C:3]([H:6])([H:9])([H:10])[H:11]>>[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])([H:4])([H:5])[H:6],94.0632586996961
[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C@:4]1([O:5][H:15])[C:6]([H:13])([H:14])[O:7]1)([H:11])[H:12])([H:8])([H:9])[H:10],56.299097516603204
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]2([O:5][H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([C:7]([C:6]([C:4](=[C:3]([H:12])[H:13])[O:5][H:14])([H:15])[H:16])([H:10])[H:17])[H:11])([H:8])[H:9],87.27064385052348
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4](=[O:5])[N:6]([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C+:2]([C:3]([H:11])([H:12])[H:13])=[C:4]([O-:5])[N:6]([H:14])[H:15].[C:1]([H:7])([H:8])([H:9])[H:10],91.29168592487328
[C:1]([C:2]([O:3][C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[H:15][H:16]>>[C:1]([C:2]([O:3][C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],69.55266315087681
[C:1]([C:2]([C:3]([N:4]([C:5][O:6][H:15])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[H:15])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],33.5021319438158
[C:1]([C:2](=[O:3])[H:10])([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:8])[H:9].[H:7][H:11]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],87.38303721983979
[C:1]([O:2][C:6]([H:12])([H:13])[H:14])([H:8])([H:9])[H:10].[C:3](=[O:4])=[C:5]([O:7][H:15])[H:11]>>[C:1]([O:2][C:3](=[O:4])[C@@:5]([C:6]([H:12])([H:13])[H:14])([O:7][H:15])[H:11])([H:8])([H:9])[H:10],60.04480528421961
[C:1]([C:2]([C:3]([O:4][H:14])([O:7][H:19])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:5]([C:6]([H:16])([H:17])[H:18])[H:15]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],29.655086793644514
[C:1]([C:2](=[O:3])[C@@:4]([O:5][H:12])([C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])/[C:4]([O:5][H:11])=[C:6](/[O:7][H:12])[H:13])([H:8])([H:9])[H:10],61.3295395422676
[C:1]([C:2](=[O:3])[C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[O:7][H:17])([H:8])([H:9])[H:10]>>[C:1]([O+:3]=[C-:2][C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[O:7][H:17])([H:8])([H:9])[H:10],113.15915675075199
[C:1]([O:6][C:5]([C:4]1([H:13])[C:2]([H:10])([H:16])[C:3]1([H:11])[H:12])([H:14])[H:15])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]([O:6][H:16])([H:14])[H:15])[H:13])([H:7])([H:8])[H:9],115.2345069739805
[O:1]([C:2]([C:3]([C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8]>>[C:3]([C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:10])([H:11])[H:12].[O:1]([C:2][H:9])[H:8],80.5047299780292
[N:1](/[C:2]([O:3][H:9])=[C:4](\[C:5]#[N:6])[H:10])([H:7])[H:8]>>[N:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:9])[H:10])([H:7])[H:8],38.9618798367584
[C:1]([N:2]([C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2](/[C:3]([O:4][H:11])=[N:5]\[C:6]([H:12])([H:13])[H:14])[H:10])([H:7])([H:8])[H:9],42.6613358496123
[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([O+:2]=[C:3]=[C:5]([O-:6])[H:14])([H:7])([H:8])[H:9].[C:4]([H:10])([H:11])([H:12])[H:13],76.3394993332921
[C:1](/[N:2]=[C:3](/[N:4]([C:5](=[O:6])[H:12])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C-:1]([N+:2](=[C:3]([N:4]([C:5](=[O:6])[H:12])[H:11])[H:10])[H:7])([H:8])[H:9],78.94281051011991
[O:1]([C:2]([C:3]#[C:4][C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3](=[C:4]=[C:5]([H:11])[H:12])[C:6](=[O:7])[H:13])([H:9])[H:10])[H:8],54.6616930902454
[C:1]([C:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:14])([H:9])[H:10])([H:6])([H:7])[H:8].[C:4]([O:5][H:15])[H:13],83.8776618193563
[C:1]1([H:7])([H:8])[C@@:2]2([H:9])[C@@:3]([C:6][H:14])([H:10])[C:4]([H:11])([H:12])[C@@:5]12[H:13]>>[C:1]1([H:7])([H:8])[C@:2]2([H:9])[C@:3]3([H:10])[C:4]([H:11])([H:12])[C@@:5]1([H:13])[C@:6]23[H:14],20.45948034876561
